US07910592B2
Step C: (5-tert-butyl-2-chlorophenyl)boronic acid
To a solution of 4-tert-butyl-1-chloro-2-iodobenzene (0.47 g, 1.60 mmol) in dry THF (5 mL) at −78° C., n-butyl lithium (0.76 mL, 1.92 mmol, 2.5 M) was added. The solution was stirred at −78° C. for 30 min. Trimethyl borate (0.53 mL, 4.79 mmol) was added. The solution was stirred at −78° C. for 3 h. The reaction was quenched with saturated aqueous NH4Cl. The aqueous layer was extracted with EtOAc (3×15 mL). The combined EtOAc layers were dried over Na2SO4. The residue was used without further purification after evaporation of the solvent.

reactant | 4-tert-butyl-1-chloro-2-iodobenzene | 1.60 mmol, 0.47 g | C(C)(C)(C)C1=CC(=C(C=C1)Cl)I | C10H12ClI
reactant | n-butyl lithium | 1.92 mmol, 2.5 M, 0.76 mL | C(CCC)[Li]
reactant | Trimethyl borate | 4.79 mmol, 0.53 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (5-tert-butyl-2-chlorophenyl)boronic acid | C(C)(C)(C)C=1C=CC(=C(C1)B(O)O)Cl | C10H14BClO2
